US07179819B2
A mixture of the above (S)-3-(1-tert-butoxycarbonyl-2-pyrrolidinyl) methoxyphenyl acetic acid in CH2Cl2 (10 mL) and TFA (10 mL) was stirred for 1 hr at room temp. Et2O was added to the mixture and allowed to stand. Upper layer was removed by decantation to give an oil. A mixture of this oil in water (100 mL), dioxane (30 mL) and NaHCO3 (6.0 g) was added Fmoc-Cl (2.86 g, 11.1 mmol) and the mixture was stirred for 20 hr at room temp. The mixture was extracted with Et2O (×2), and the aqueous layer was acidified by the addition of 1 N HCl. The mixture was extracted with EtOAc. The extract was washed with water, brine, dried over MgSO4 and concentrated in vacuo to afford 5.08 g (81%) (S)-3-(1-Fmoc-2-pyrrolidinyl)methoxyphenylacetic acid as a viscous oil.

reactant | (S)-3-(1-tert-butoxycarbonyl-2-pyrrolidinyl) methoxyphenyl acetic acid | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC=1C=C(C=CC1)CC(=O)O | C18H25NO5
reactant | Et2O | CCOCC | C4H10O
reactant | NaHCO3 | 6.0 g | C(=O)(O)[O-].[Na+]
reactant | Fmoc-Cl | 11.1 mmol, 2.86 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | 100 mL | O | H2O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | (S)-3-(1-Fmoc-2-pyrrolidinyl)methoxyphenylacetic acid | 5.08 g, 81% | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1[C@@H](CCC1)COC=1C=C(C=CC1)CC(=O)O | C28H27NO5
